US07842696B2
BINAP (0.1 g, 0.16 mmol) and Pd(OAc)2 (0.014 g, 0.06 mmol) were mixed in toluene (10 mL) and this first solution was purged with argon for 15 minutes. Phenylamine (0.3 gm, 3.22 mmol), 4-bromo-benzoic acid (0.776 g, 3.89 mmol) and Cs2CO3 (3.14 gm, 9.66 mmol) were mixed in toluene (20 mL) and this second solution was purged with argon for 15 minutes. The first solution was added to the second solution, and the resulting mixture was heated to reflux overnight. Additional BINAP (0.1 g, 0.16 mmol) and Pd(OAc)2 (0.014 g, 0.06 mmol) were then added and the mixture heated to reflux for a further 6 hours. The toluene was removed and the residue was acidified with 10% HCl. The product was extracted with EtOAc and washed with brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford 950 mg crude product. Purification by column chromatography (using silica gel of mesh size of 60-120 and 30:70 EtOAc:Hexane as the eluent) afforded 300 mg (43% yield) of 4-Phenylamino-benzoic acid.

reactant | BINAP | 0.16 mmol, 0.1 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Phenylamine | 3.22 mmol, 0.3 gm | C1(=CC=CC=C1)N | C6H7N
reactant | 4-bromo-benzoic acid | 3.89 mmol, 0.776 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | Cs2CO3 | 9.66 mmol, 3.14 gm | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.16 mmol, 0.1 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.06 mmol, 0.014 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.06 mmol, 0.014 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | Hexane | CCCCCC | C6H14
product | 4-Phenylamino-benzoic acid | 300 mg, 43% yield | C1(=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C13H11NO2
